US09353108B2
A) tert-Butyl 4-((2-(2,6-dichloropyridin-3-yl)ethyl)amino)piperidine-1-carboxylate
Sodium triacetoxy borohydride (9.47 g) was added to a THF (60 mL) solution of (2,6-dichloropyridin-3-yl)acetaldehyde (5.66 g) and tert-butyl 4-aminopiperidine-1-carboxylate (7.16 g), and the mixture was stirred at room temperature for 1 hour. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/methanol) to obtain the title compound (10.5 g).

reactant | Sodium triacetoxy borohydride | 9.47 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (2,6-dichloropyridin-3-yl)acetaldehyde | 5.66 g | ClC1=NC(=CC=C1CC=O)Cl | C7H5Cl2NO
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 7.16 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-((2-(2,6-dichloropyridin-3-yl)ethyl)amino)piperidine-1-carboxylate | 10.5 g | ClC1=NC(=CC=C1CCNC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C17H25Cl2N3O2
